US03962443
5,8-Dihydro-8-ethyl-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (compound 3)
To a mixture containing 1.0 g of 5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid, 1.0 g of 65% sodium hydride, and 40 ml of dimethylformamide held at 60°C, was added 1.0 ml of ethyl iodide. The resulting mixture was heated in a steam bath for 2.5 hours. Dimethylformamide was distilled off in vacuo, the residue dissolved in 10 ml of water, and the resulting solution neutralized with acetic acid. The precipitate was collected and recrystallized from ethanol to yield 0.72 g of the product, m.p. 232° - 233°C.

reactant | 5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 1.0 g | CN1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C13H15N5O3
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | ethyl iodide | 1.0 ml | C(C)I | C2H5I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5,8-Dihydro-8-ethyl-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 0.72 g | C(C)N1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)O | C15H19N5O3
